US09216996B2
1-(2,2-dimethoxyethyl)-5-methoxy-6-(methoxycarbonyl)-4-oxo-1,4-dihydropyridine-3-carboxylic acid (1-A, 0.500 g, 1.59 mmol), was suspended in acetonitrile (6 mL) and treated with N,N-diisopropylethylamine (DIPEA) (0.550 mL, 3.17 mmol), (R)-1-(4-fluorophenyl)ethanamine (0.242 mg, 1.74 mmol) and HATU (0.661 g, 1.74 mmol). The reaction mixture was stirred for 2 hours and partitioned between ethyl acetate and water. The organic layer was separated and washed with HCl (10% aq), sodium bicarbonate (1M aq), dried over sodium sulfate, filtered and concentrated to afford crude (R)-methyl 1-(2,2-dimethoxyethyl)-5-(1-(4-fluorophenyl)ethylcarbamoyl)-3-methoxy-4-oxo-1,4-dihydropyridine-2-carboxylate which was used without purification in the next step: LCMS-ESI+ (m/z): [M+H]+ calculated for C21H26FN2O2: 437.17; found: 437.1.

reactant | 1-(2,2-dimethoxyethyl)-5-methoxy-6-(methoxycarbonyl)-4-oxo-1,4-dihydropyridine-3-carboxylic acid | 1.59 mmol, 0.500 g | COC(CN1C=C(C(C(=C1C(=O)OC)OC)=O)C(=O)O)OC | C13H17NO8
reactant | N,N-diisopropylethylamine | 3.17 mmol, 0.550 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (R)-1-(4-fluorophenyl)ethanamine | 1.74 mmol, 0.242 mg | FC1=CC=C(C=C1)[C@@H](C)N | C8H10FN
reactant | HATU | 1.74 mmol, 0.661 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | (R)-methyl 1-(2,2-dimethoxyethyl)-5-(1-(4-fluorophenyl)ethylcarbamoyl)-3-methoxy-4-oxo-1,4-dihydropyridine-2-carboxylate | COC(CN1C(=C(C(C(=C1)C(N[C@H](C)C1=CC=C(C=C1)F)=O)=O)OC)C(=O)OC)OC | C21H25FN2O7
